US04931083
1-(4-bromophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole
A 3.9 g portion of sodium was dissolved in 50 ml of ethanol and was added to a solution of 41 g of 1-(4-bromophenyl)-3-hydroxy-1,2,4-1H-triazole in 150 ml of dimethylsulfoxide. The mixture was heated at 60° for 45 minutes, and then 30.9 g of ethyl 2-bromopropionate was added. The mixture was heated for 2 hours more, and was then cooled and poured over ice-water. The solid was collected and dried, and was recrystallized from toluene. The mother liquor was concentrated under vacuum, and the residue was recrystallized from ethanol. That product was combined with the first portion of product and recrystallized from ethanol to obtain 27.9 g of the desired product, m.p. 64°-66°.

reactant | sodium | [Na] | Na
reactant | 1-(4-bromophenyl)-3-hydroxy-1,2,4-1H-triazole | 41 g | BrC1=CC=C(C=C1)N1N=C(N=C1)O | C8H6BrN3O
reactant | ethyl 2-bromopropionate | 30.9 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 1-(4-bromophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole | 27.9 g | BrC1=CC=C(C=C1)N1N=C(N=C1)OC(C)C(=O)OCC | C13H14BrN3O3
